US20010016298A1
A vessel was charged with 100 g of α-bromo-γ-butyrolactone and 104.4 g of methacrylic acid(2.0 times the molar amount of α-bromo-γ-butyrolactone). Then, methyl isobutyl ketone in a weight three times the weight of α-bromo-γ-butyrolactone was added thereto to form a solution. To the solution was added dropwise 183.6 g of triethylamine(3.0 times the molar amount of α-bromo-γ-butyrolactone), followed by stirring for about 10 hours at room temperature. After filtration, the resulting organic layer was washed with an aqueous solution of 5 wt % sodium bicarbonate and then washed with water twice. The organic layer was concentrated to obtain α-methacryloyloxy-γ-butyrolactone represented by the following formula.

reactant | α-bromo-γ-butyrolactone | 100 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | methacrylic acid | 104.4 g | C(C(=C)C)(=O)O | C4H6O2
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | triethylamine | 183.6 g | C(C)N(CC)CC | C6H15N
product | α-methacryloyloxy-γ-butyrolactone | C(C(=C)C)(=O)OC1C(=O)OCC1 | C8H10O4
